US05554607
3-(5-Chloro-2-methylphenyl)-1-isopropyl-2thioxo-imidazolidin-4-one
A mixture of the crude N-isopropyl glycine (21.2 g), 5-chloro-2-methylphenylisothiocyanate (18.3 g), triethyl amine (21.0 g) and chloroform (300 mL) was heated at reflux for 4 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (400 mL) and water (300 mL). The organic phase was washed with 2N HCl (2×300 mL), then with water. The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. Crystallization from ethanol afforded the title compound (15.4 g) as a peach solid, m.p. 142°-144° C. Anal. Calcd. for. C13H15Cl N2O S: C, 55.21; H, 5.35; N, 9.91. Found: C, 55.07; H, 5.20; N, 9.82. Mass spectrum (+FAB, [M+H]+) m/z 283/285.

reactant | N-isopropyl glycine | 21.2 g | C(C)(C)NCC(=O)O | C5H11NO2
reactant | 5-chloro-2-methylphenylisothiocyanate | 18.3 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | triethyl amine | 21.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-Chloro-2-methylphenyl)-1-isopropyl-2thioxo-imidazolidin-4-one | 15.4 g | ClC=1C=CC(=C(C1)N1C(N(CC1=O)C(C)C)=S)C | C13H15ClN2OS
